US08633126B2
Preparation of diisobutyl naphthalene-1,8-diyl dicarbonate (ID-5):
To a round-bottom flask is charged naphthalene-1,8-diol (4.0 g, 25 mmol), and anhydrous DMF (50 ml). The flask is immersed in an ice-water bath, and 60% sodium hydride in mineral oil (2.4 g, 60 mmol) is added in portions. The mixture is stirred for an hour. Isobutyl chloroformate (8.2 g, 60 mmol) is added dropwise. After gradually warming to room temperature, the mixture is stirred overnight. The mixture is poured into ice-cold water and extracted with ether three times. The combined ether extracts are washed with water, then brine, and then dried over magnesium sulfate. After filtration, the filtrate is concentrated, and the residue is purified by flash column chromatography on silica gel to yield 2.8 g (31%) of the product as a light-grey solid. 1H NMR (400 MHz, CDCl3, ppm) δ 7.79 (dd, 2H, J=1.2, 8.0 Hz), 7.47 (dd, 2H, J=7.6, 8.0 Hz), 7.26 (dd, 2H, J=1.2, 7.6 Hz), 4.07 (d, 4H, J=6.8 Hz), 2.07 (m, 2H), 1.00 (d, 12 H, J=6.8 Hz).

reactant | naphthalene-1,8-diol | 25 mmol, 4.0 g | C1(=CC=CC2=CC=CC(=C12)O)O | C10H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | Isobutyl chloroformate | 60 mmol, 8.2 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | diisobutyl naphthalene-1,8-diyl dicarbonate | 2.8 g, 31% | C(OCC(C)C)(OC1=CC=CC2=CC=CC(=C12)OC(OCC(C)C)=O)=O | C20H24O6
